* G:\My Drive\Graduate Reserach\Qual\LTSpice\Buck_sync.asc
V1 N001 0 10
L1 N002 N003 20m
M1 N001 NC_01 N002 N002 BSC032NE2LS
C1 out 0 10µ
R2 out 0 4
M2 N002 NC_02 0 0 BSC032NE2LS
R1 N003 out 15
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jared\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.ic V(out)=20 I(L1)=-10
.backanno
.end
